US05264415
2-(2-methoxyphenyl)-3-phenyl-2-[(1,2,4-triazol-1-yl)methyl]propanoic acid
To a clear solution of 3-benzyl-3-[(1,2,4-triazol-1-yl)methyl]-2(3H)-benzofuranone (11 g, 0.0360 mole) and methanol (100 mL), potassium hydroxide (45% solution) (0.5 g, 0.0750 mole) was added and the reaction mixture heated with stirring at reflux for 3 hours. The reaction mixture was then cooled to 25° C. and iodomethane (6.1 g, 0.0750 mole) added and the reaction mixture continued to stir at 50° C. for an additional 3 hours. The reaction solvent was then removed by distillation, and the residue stirred with hydrochloric acid (5 g, 0.37 mole) and 100 mL of water. The precipitated solid was filtered by suction and washed by 100 mL of hot ethyl acetate. The remaining solid was dried and gave 7.0 g, melting point 250°-252° C. (yield 57%), Example 95 of Table 1.

reactant | 3-benzyl-3-[(1,2,4-triazol-1-yl)methyl]-2(3H)-benzofuranone | 0.0360 mole, 11 g | C(C1=CC=CC=C1)C1(C(OC2=C1C=CC=C2)=O)CN2N=CN=C2 | C18H15N3O2
reactant | potassium hydroxide | 0.0750 mole, 0.5 g | [OH-].[K+]
reactant | iodomethane | 0.0750 mole, 6.1 g | IC | CH3I
reactant | hydrochloric acid | 0.37 mole, 5 g | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | methanol | 100 mL | CO | CH4O
product | 2-(2-methoxyphenyl)-3-phenyl-2-[(1,2,4-triazol-1-yl)methyl]propanoic acid | yield 57% | COC1=C(C=CC=C1)C(C(=O)O)(CC1=CC=CC=C1)CN1N=CN=C1 | C19H19N3O3
